US07304062B2
(4-Methylbenzyl)hydrazinecarboxylic acid, 1,1-dimethylethyl ester
To a 10-gal stainless steel autoclave containing isopropanol (10 L) under nitrogen was charged t-butyl carbazate (1.25 kg, 9.46 mol)followed by isopropanol (2 L). The contents were stirred and heated at 35° C. for 30 min, then 4-methylbenzaldehyde (1.142 kg, 9.51 mol) was added, followed by isopropanol (0.3 L). The contents were heated to 45° C., and a slurry of 5% Pd/C (0.3 kg) in water (0.3 L) and isopropanol (4 L) was added, followed by rinses of isopropanol (2×1 L). The contents were hydrogenated at 40 psig and 45° C. for 4 h, then a second charge of 5% Pd/C (0.3 kg) in water (0.3 L) and isopropanol (4 L) was added, followed by rinses of isopropanol (2×1 L). Hydrogenation was continued at 40 psig and 45° C. for 14 h, at which the reaction was determined to be complete by HPLC. The contents were then cooled to 15° C. and filtered, and the filter cake rinsed with isopropanol (15 L). The filtrate was concentrated in vacuo to afford the title compound (1.97 kg, 88.2%) as a 33.8 wt-% solution in isopropanol.

reactant | t-butyl carbazate | 9.46 mol, 1.25 kg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 4-methylbenzaldehyde | 9.51 mol, 1.142 kg | CC1=CC=C(C=O)C=C1 | C8H8O
solvent | water | 0.3 L | O | H2O
solvent | isopropanol | 4 L | C(C)(C)O | C3H8O
solvent | water | 0.3 L | O | H2O
solvent | isopropanol | 4 L | C(C)(C)O | C3H8O
catalyst | Pd/C | 0.3 kg | [Pd] | Pd
catalyst | Pd/C | 0.3 kg | [Pd] | Pd
solvent | isopropanol | 1 L | C(C)(C)O | C3H8O
solvent | isopropanol | 1 L | C(C)(C)O | C3H8O
solvent | isopropanol | 0.3 L | C(C)(C)O | C3H8O
solvent | isopropanol | 2 L | C(C)(C)O | C3H8O
solvent | isopropanol | 10 L | C(C)(C)O | C3H8O
product | (4-Methylbenzyl)hydrazinecarboxylic acid, 1,1-dimethylethyl ester | 1.97 kg, 88.2% | CC1=CC=C(CN(N)C(=O)OC(C)(C)C)C=C1 | C13H20N2O2
